US06025387
5) Preparation of 7-hydroxy-3',4',5,6-tetramethoxy flavone
7-benzyloxy-3',4',5,6-tetramethoxy flavone (5.62 g, 12.5 mmol) was dissolved in chloroform, hereto was added 10% Pd/C (1.06 g, 0.08 equivalents) and the mixture was stirred under hydrogen atmosphere at room temperature. After the reaction was completed, the reaction mixture was filtered through celite pad and the solvent was removed by evaporation to give 4.44 g of the titled product (98%).

reactant | 7-benzyloxy-3',4',5,6-tetramethoxy flavone | 12.5 mmol, 5.62 g | C(C1=CC=CC=C1)OC1=C(C(=C2C(C=C(OC2=C1)C1=CC(=C(C=C1)OC)OC)=O)OC)OC | C26H24O7
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd/C | 1.06 g, 0.08 equivalents | [Pd] | Pd
product | 7-hydroxy-3',4',5,6-tetramethoxy flavone | 4.44 g, 98% | OC1=C(C(=C2C(C=C(OC2=C1)C1=CC(=C(C=C1)OC)OC)=O)OC)OC | C19H18O7
